Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is ___ gentleman with no past medical history 
who
presents to the emergency department from PCPs office with
abnormal EKG and concern for STEMI. One week ago, pt first
noticed some left lower chest discomfort which he felt was
similar to muscle strains he has had in the past. He plays 
tennis
multiple times per week and frequently strains muscles. This 
pain
resolved without intervention, but then migrated to his anterior
chest wall.  He did not try any medications to improved his 
chest
pain.  This then migrated to his left shoulder. It was sharp in
nature, did not worsen with physical activity, and did get worse
with deep breaths. It was not associated with any dyspnea,
nausea, vomiting or diaphoresis. On the day of admission, he 
woke
up this morning and went to see his PCP and had ___ EKG done which
show elevations in V3 V6, so he was transferred here for 
concerns
of STEMI. Received 324 mg aspirin prior to arrival to the ED.

On arrival in the ED, patient states he is asymptomatic. Denies
any chest discomfort, shortness of breath. No nausea or 
vomiting.
He otherwise denies any recent illness, fevers or chills. No
recent travels or surgeries. Never had any cardiac problems in
the past. Not a smoker.
 
Past Medical History:
none
 
Social History:
___
Family History:
non contributory 
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS:  ___ 1628 Temp: 98.3 PO BP: 121/73 L Sitting HR: 86
RR: 16 O2 sat: 97% O2 delivery: Ra 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate. Lying comfortably in bed.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP of 7 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric 

DISCHARGE EXAM:
===============
VITALS:  ___ 0444 Temp: 98.0 PO BP: 133/75 L Lying HR: 81
RR: 18 O2 sat: 94% O2 delivery: Ra  
GENERAL: Lying comfortably in bed.  NAD 
NECK: Supple with JVP of 7 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
PULSES: Distal pulses palpable and symmetric  
 
 
Pertinent Results:
ADMISSION LABS:
=============
___ 09:13AM BLOOD WBC-8.9 RBC-4.35* Hgb-13.8 Hct-42.4 
MCV-98 MCH-31.7 MCHC-32.5 RDW-12.1 RDWSD-43.8 Plt ___
___ 09:13AM BLOOD Neuts-80.6* Lymphs-6.2* Monos-11.5 
Eos-1.0 Baso-0.2 Im ___ AbsNeut-7.15* AbsLymp-0.55* 
AbsMono-1.02* AbsEos-0.09 AbsBaso-0.02
___ 09:13AM BLOOD Glucose-135* UreaN-26* Creat-1.0 Na-140 
K-4.7 Cl-101 HCO3-28 AnGap-11
___ 07:30AM BLOOD ALT-16 AST-20 LD(LDH)-249 AlkPhos-73 
TotBili-0.9
___ 07:30AM BLOOD Albumin-3.7 Calcium-8.8 Phos-2.7 Mg-1.8
___ 09:13AM BLOOD CRP-136.1*

DISCHARGE LABS:
==============
___ 07:30AM BLOOD WBC-9.4 RBC-4.43* Hgb-14.1 Hct-43.3 
MCV-98 MCH-31.8 MCHC-32.6 RDW-12.2 RDWSD-44.5 Plt ___
___ 07:30AM BLOOD Neuts-79.7* Lymphs-6.4* Monos-9.7 Eos-3.6 
Baso-0.3 Im ___ AbsNeut-7.44* AbsLymp-0.60* AbsMono-0.91* 
AbsEos-0.34 AbsBaso-0.03
___ 07:30AM BLOOD Glucose-93 UreaN-22* Creat-1.0 Na-141 
K-5.0 Cl-101 HCO3-27 AnGap-13

TTE:
===
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
nromal cavity size and regional/ global systolic function. Mild 
aortic regurgitation. Mild mitral regurgitation. Moderate 
tricuspid regurgitation. Mild pulmonary artery systolic 
hypertension.

 
Brief Hospital Course:
___ gentleman with no past medical history who presents 
to the emergency department from ___ office with EKG findings 
concerning for STE in V4-6, found to have diffuse ST elevations 
and likely pericarditis.

#Acute pericarditis: Pleuritic chest pain, sharp in nature with 
diffuse ST elevations on EKG not in vascular territory very 
consistent with acute pericarditis, with CRP elevated to 100s 
supporting this diagnosis as well. Given non-exertional 
symptoms, no risk factors for CAD, negative trops x 2, very low 
concern for ischemic etiology of chest pain. Unclear as to the 
etiology of the pericarditis. No recent viral infectious 
symptoms whatsoever on review of systems. Even so, most likely 
etiology is indolent viral infection. Nothing to suggest lupus, 
autoimmune or
other infectious cause. Diagnostically, TTE with no effusion. 
Therapeutically, will start colchicine 0.5mg PO BID for 3 
months, as well as Ibuprofen 600mg TID for 2 weeks. Will need a 
follow up TTE in one week.

Transitional issues:
====================
[] Please get follow up TTE in one to two weeks to ensure no 
accumulation of effusion
[] Discharged on Colchicine 0.6mg PO BID for 3 months, Ibuprofen 
600mg PO TID for one week
[] Omeprazole 20mg PO daily for one week for GI prophylaxis (no 
need to continue when not on NSAID any longer)

 
Medications on Admission:
None
 
Discharge Medications:
1.  Colchicine 0.6 mg PO BID 
RX *colchicine 0.6 mg 1 tablet(s) by mouth Twice daily Disp 
#*180 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q8H Duration: 1 Week 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Three times daily Disp 
#*21 Tablet Refills:*0 
3.  Omeprazole 20 mg PO DAILY Duration: 1 Week 
RX *omeprazole 20 mg 1 capsule(s) by mouth Daily Disp #*7 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pericarditis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because:
- You were having some chest pain at home
- You went to your primary care office and your EKG was 
concerning 
- In the ED, you were thought to have pericarditis and you were 
started on 

While you were here:
- You had an echocardiogram which did not show any fluid around 
the heart
- You had lab work which did not show any damage to the heart 
muscle
- You were diagnosed with acute pericarditis the cause of which 
is unclear
- You were started on medications to help resolve the 
pericarditis

When you leave:
- Please take all of your medications as prescribed
- Please attend all of your follow up appointments as arranged 
for you

It was a pleasure to care for you during your hospitalization!

- Your ___ care team
 
Followup Instructions:
___